US08440689B2
A. Methyl 4-cyano-2-(1-methyl-1H-pyrazol-4-yl)nicotinate
A mixture of methyl 2-chloro-4-cyanonicotinate (730 mg, 3.71 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (927 mg, 4.46 mmol), trans-dichlorobis(triphenylphosphine)palladium (261 mg, 0.371 mmol) and potassium fluoride (2697 mg, 14.85 mmol) in DME (15 mL) was stirred at 120° C. for 1 h under microwave irradiation. The mixture was filtered through Celite, and the filtrate was diluted with H2O and EtOAc. The organic phase was washed with H2O and brine, dried over MgSO4, and evaporated. The residue was purified by chromatography on SiO2 to give the title compound as a pale yellow solid (470 mg, 52.3%). 1H NMR (500 MHz, CDCl3) δ ppm 3.97 (s, 3H), 4.03 (s, 3H), 7.41 (d, J=4.88 Hz, 1H), 7.82 (s, 1H), 7.91 (s, 1H), 8.79 (d, J=4.88 Hz, 1H). [M+H] calc'd for C12H10N4O2, 243; found, 243.

reactant | methyl 2-chloro-4-cyanonicotinate | 3.71 mmol, 730 mg | ClC1=C(C(=O)OC)C(=CC=N1)C#N | C8H5ClN2O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 4.46 mmol, 927 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium fluoride | 14.85 mmol, 2697 mg | [F-].[K+]
solvent | DME | 15 mL | COCCOC | C4H10O2
catalyst | trans-dichlorobis(triphenylphosphine)palladium | 0.371 mmol, 261 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 4-cyano-2-(1-methyl-1H-pyrazol-4-yl)nicotinate | 470 mg, 52.3% | C(#N)C1=CC=NC(=C1C(=O)OC)C=1C=NN(C1)C | C12H10N4O2
